US05681954
2-[2-(2-Aminoethyl)-4,5-dimethoxyphenyl]-5,6-dimethoxy-1-methylindole Hydrochloride
A 2N hydrochloric acid solution of 53.0 g of 2-[2-(2-acetamidoethyl)-4,5-dimethoxyphenyl]-5,6-dimethoxy-1-methylindole was heated under reflux for 17 hours. The reaction mixture was azeotropically distilled under reduced pressure with ethanol and benzene, and the residue was recrystallized from ethanol to yield 48 g of the title compound.

reactant | hydrochloric acid | 2N | Cl | ClH
reactant | 2-[2-(2-acetamidoethyl)-4,5-dimethoxyphenyl]-5,6-dimethoxy-1-methylindole | 53.0 g | C(C)(=O)NCCC1=C(C=C(C(=C1)OC)OC)C=1N(C2=CC(=C(C=C2C1)OC)OC)C | C23H28N2O5
product | 2-[2-(2-Aminoethyl)-4,5-dimethoxyphenyl]-5,6-dimethoxy-1-methylindole Hydrochloride | 48 g | Cl.NCCC1=C(C=C(C(=C1)OC)OC)C=1N(C2=CC(=C(C=C2C1)OC)OC)C | InChI=1S/C21H26N2O4.ClH/c1-23-16-12-21(27-5)19(25-3)10-14(16)8-17(23)15-11-20(26-4)18(24-2)9-13(15)6-7-22;/h8-12H,6-7,22H2,1-5H3;1H
